US04562186
3-Benzoyl-5-(phenylsulfinyl)methyl-1,2,4-oxadiazole
A solution of 5.5 g of m-chloroperoxybenzoic acid (85%) in 125 ml of CH2Cl2 was added dropwise at -70° C. under N2 to a solution of 7.5 g of 3-benzoyl-5-phenylthiomethyl-1,2,4-oxadiazole in 150 ml of CH2Cl2. The temperature of the reaction was maintained below -65° by controlling the rate of addition. After stirring further for 30 minutes, the reaction mixture was added directly to a separatory funnel containing 250 ml of 10% Na2S2O3 and 500 ml of Et2O. The organics were washed with saturated NaHCO3 and dried over MgSO4. Concentration gave an oil which solidified on standing. Recrystallization from acetone/hexane gave 3.7 g (44%) of needles, m.p. 79°-81°.

reactant | m-chloroperoxybenzoic acid | 5.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-benzoyl-5-phenylthiomethyl-1,2,4-oxadiazole | 7.5 g | C(C1=CC=CC=C1)(=O)C1=NOC(=N1)CSC1=CC=CC=C1 | C16H12N2O2S
reactant | Na2S2O3 | 250 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | Et2O | 500 ml | CCOCC | C4H10O
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-Benzoyl-5-(phenylsulfinyl)methyl-1,2,4-oxadiazole | 3.7 g, 44% | C(C1=CC=CC=C1)(=O)C1=NOC(=N1)CS(=O)C1=CC=CC=C1 | C16H12N2O3S
